US09062070B2
Step E: methyl 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylate
Triethylamine (3.20 mL, 23.0 mmol) was added to a solution of methyl 2-amino-4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylate (2.11 g, 9.27 mmol) in dioxane (42 mL) followed by formic acid (0.89 mL, 22.28 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (660 mg, 0.902 mmol). The reaction mixture was heated at 100° C. in a sealed tube overnight. The solvent was evaporated. The residue was purified by chromatography on silica (220 g+125 g cartridges) using CH2Cl2: MeOH 95:5 to afford the title compound which was used without further purification in the next step.

reactant | Triethylamine | 23.0 mmol, 3.20 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 2-amino-4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylate | 9.27 mmol, 2.11 g | NC=1N=C(C2=C(N1)CCC2C(=O)OC)Cl | C9H10ClN3O2
reactant | formic acid | 22.28 mmol, 0.89 mL | C(=O)O | CH2O2
solvent | dioxane | 42 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 0.902 mmol, 660 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylate | NC=1N=CC2=C(N1)CCC2C(=O)OC | C9H11N3O2
